US04963566
8-Methylquinoline (4.02 g) was dissolved in carbon tetrachloride (40 ml), and N-bromosuccinimide (5.98 g) and benzoyl peroxide (0.15 g) were added to the solution, and the mixture was heated and refluxed for 3 hours. After filtering off the insoluble matter, the filtrate was concentrated. The resultant residue was recrystallized from ligroin to give 8-bromomethylquinoline (3.60 g).

reactant | 8-Methylquinoline | 4.02 g | CC=1C=CC=C2C=CC=NC12 | C10H9N
reactant | N-bromosuccinimide | 5.98 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.15 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 8-bromomethylquinoline | 3.60 g | BrCC=1C=CC=C2C=CC=NC12 | C10H8BrN
